US04160829
A solution of an excess of diazomethane in diethyl ether was added to a stirred, cold (about 2° C.) solution of 14 g of 3-methyl-1,2,4-oxadiazol-5-yl-acetic acid in 500 ml of diethyl ether. After the initially vigorous evolution of nitrogen was finished, the solution was concentrated on the steam bath to about 250 ml. The solution was washed three times with 100 ml of water and the wash waters were combined, adjusted to a pH of 9.0 and were extracted with diethyl ether to obtain the part of the product which dissolved in water during the washings. The combined ethereal extracts were filtered through a water repelling paper filter and then were evaporated in vacuo. After keeping the residue for 1 hour at 8 mm the residual oil weighed 14.8 g. The yellow oil was distilled at 0.4-0.5 mm and the collected fraction with a boiling point 70°-71° C. to obtain 12.3 g of methyl 3-methyl-1,2,4-oxadiazol-5-yl-acetate with a refractive index nD25 =1.4472.

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | 3-methyl-1,2,4-oxadiazol-5-yl-acetic acid | 14 g | CC1=NOC(=N1)CC(=O)O | C5H6N2O3
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
solvent | water | O | H2O
product | methyl 3-methyl-1,2,4-oxadiazol-5-yl-acetate | 12.3 g | CC1=NOC(=N1)CC(=O)OC | C6H8N2O3
